US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
Using N-[6-(4-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (150 mg, 0.486 mmol), N,N-dimethylacetamide (3.0 mL), 1-[(4-fluorophenyl)carbamoyl]cyclopropanecarboxylic acid (163 mg, 0.730 mmol), HATU (277 mg, 0.730 mmol) and N,N-diisopropylethylamine (127 μL, 0.730 mmol) and in the same manner as in Example 8, the title compound (111 mg, 44%) was obtained as a white solid.

reactant | N-[6-(4-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.486 mmol, 150 mg | NC1=CC=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1 | C17H16N4O2
reactant | 1-[(4-fluorophenyl)carbamoyl]cyclopropanecarboxylic acid | 0.730 mmol, 163 mg | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
reactant | HATU | 0.730 mmol, 277 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.730 mmol, 127 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylacetamide | 3.0 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 111 mg, 44% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=CC=C(C=C2)NC(=O)C2(CC2)C(=O)NC2=CC=C(C=C2)F)C1 | C28H24FN5O4
